datasets/10k_Mayr_OG.csv
SMILES Labelled
"CC(C)[C@H]1CC[N:12]2C3=C(C=CC=C3)[S:62][C:11]2=[N:10]1.FC(F)(F)[S:20][N:21]1[C:22](=[O:23])CC[C:32]1=[O:33]>>C1C[C:32](=[O:33])[N:21]=[C:22]1[O-:23].CC(C)[C@H]1CC[N+:12]2=[C:11]([N:10]1[S:20]C(F)(F)F)[S:62]C1=C2C=CC=C1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CN(C)[C:65]1=[CH:64][CH:63]=[N+:62]([BH2-:11][H:10])[CH:73]=[CH:74]1.[O+]#C[Cr-3:34]12345(C#[O+])(C#[O+])C6C1C2[C:33]3([C:32]#[C:31][CH+:20][C:41]1=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]1)C4C65>>CN(C)[C:65]1=[CH:64][CH:63]=[N+:62]([BH2:11])[CH:73]=[CH:74]1.[O+]#C[Cr-3:34]12345(C#[O+])(C#[O+])C6C1C2[C:33]3([C:32]#[C:31][CH:20]([H:10])[C:41]1=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]1)C4C65 10,11=10,20"
"CO[C:34]1=[CH:33][CH:32]=[C:31](/[CH:20]=[C:21](\C[N+]2=CC=C(N(C)C)C=C2)[C:22](C)=[O:23])[CH:43]=[CH:44]1.C[C:11]1=[CH:10]CCCC1>>CO[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([CH:10]2CCCC[C+:11]2C)[C:21](C[N+]2=CC=C(N(C)C)C=C2)=[C:22](C)[O-:23])[CH:43]=[CH:44]1 10,11=10,20;20,21=21,22;22,23=23"
"C/[N:10]=C/C1=CC=CC=C1.CN1C(=O)C(CC2=CC=CC=C2)/[N+:23](=[CH:22]/[CH:21]=[CH:20]/[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)C1C(C)(C)C>>CN1C(=O)C(CC2=CC=CC=C2)[N:23]([CH:22]=[CH:21][CH:20](/[N+:10](C)=C\C2=CC=CC=C2)[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)C1C(C)(C)C 10=20;20,21=21,22;22,23=23"
"C[C:11]1=[CH:10]C2=C(C=CC=C2)[N:12]1C.Cl[C:33]1=[CH:34][CH:35]=[CH:36][C:31]([C+:20]([C:41]2=[CH:42][C:43](Cl)=[CH:44][CH:45]=[CH:46]2)[C:51]2=[CH:52][C:53](Cl)=[CH:54][CH:55]=[CH:56]2)=[CH:32]1>>C[C:11]1=[N+:12](C)C2=C(C=CC=C2)[CH:10]1[C:20]([C:31]1=[CH:32][C:33](Cl)=[CH:34][CH:35]=[CH:36]1)([C:41]1=[CH:42][C:43](Cl)=[CH:44][CH:45]=[CH:46]1)[C:51]1=[CH:52][C:53](Cl)=[CH:54][CH:55]=[CH:56]1 10,11=10,20;12=11,12"
"C1=C[C:71]2=[C:72](C=C1)[NH:62][CH:61]=[N:10]2.CO[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]=[N+:21](C)C)[CH:36]=[CH:35]1>>CO[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([N+:10]2=[CH:61][NH:62][C:72]3=[C:71]2C=CC=C3)[N:21](C)C)[CH:36]=[CH:35]1 10=20;20,21=21"
"CC1(C)C(C)(C)[O:62][B-:11](C2=CC=C(C(F)(F)F)C=C2)([CH2:10]C)[O:12]1.F[C:33]1=[CH:34][C:35](F)=[CH:36][C:31]([CH+:20][C:41]2=[CH:42][C:43](F)=[CH:44][C:45](F)=[CH:46]2)=[CH:32]1>>CC1(C)C(C)(C)[O:62][B-:11](C2=CC=C(C(F)(F)F)C=C2)=[O+:12]1.C[CH2:10][CH:20]([C:31]1=[CH:32][C:33](F)=[CH:34][C:35](F)=[CH:36]1)[C:41]1=[CH:42][C:43](F)=[CH:44][C:45](F)=[CH:46]1 10,11=10,20;12=11,12"
"C[N:12](C)[C:11](=[NH:10])[N:62](C)C.FC(F)(F)[S:20][N:21]([S:32](C1=CC=CC=C1)(=[O:33])=[O:34])[S:42](C1=CC=CC=C1)(=[O:43])=[O:44]>>C1=CC=C([S:32]([N-:21][S:42](C2=CC=CC=C2)(=[O:43])=[O:44])(=[O:33])=[O:34])C=C1.C[N+:12](C)=[C:11]([NH:10][S:20]C(F)(F)F)[N:62](C)C 10,11=10,20;12=11,12;20,21=21"
"CC[O:72][C:61](/[C:10](C)=[C:11](/C)[O-:12])=[O:62].[CH+:20]1[CH:31]=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1>>CC[O:72][C:61]([C:10](C)([C:11](C)=[O:12])[CH:20]1[CH:31]=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)=[O:62] 10,11=10,20;12=11,12"
"Br[C:34]1=[CH:33][CH:32]=[C:31]([CH+:20][CH:41]=[CH:42][C:53]2=[CH:54][CH:55]=[C:56](Br)[CH:57]=[CH:58]2)[CH:36]=[CH:35]1.C1=CC=C(/[C:11](=[CH:10]/[C:61](C2=CC=CC=C2)=[O:62])[O-:12])C=C1>>Br[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([CH:10]([C:11](C2=CC=CC=C2)=[O:12])[C:61](C2=CC=CC=C2)=[O:62])[CH:41]=[CH:42][C:53]2=[CH:54][CH:55]=[C:56](Br)[CH:57]=[CH:58]2)[CH:36]=[CH:35]1 10,11=10,20;12=11,12"
"CO[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]=[O+:21]C)[CH:35]=[CH:36]1.FC(F)(F)[S:81](/[CH:10]=[C:11]1\[CH:12]=[CH:13]/[C:14](=[N+:15](/[O-:16])[O-:76])[CH:63]=[CH:62]1)(=[O:82])=[O:92]>>CO[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([CH:10]([C:11]2=[CH:12][CH:13]=[C:14]([N+:15](=[O:16])[O-:76])[CH:63]=[CH:62]2)[S:81](C(F)(F)F)(=[O:82])=[O:92])[O:21]C)[CH:35]=[CH:36]1 10,11=10,20;12,13=11,12;14,15=13,14;16=15,16;20,21=21"
"CC1(C)[O:33][C:31](=[O:32])[C:21](=[CH:20][C:41]2=[CH:42][C:43]3=[C:44]4N(CCC3)CCC[C:45]4=[CH:46]2)[C:22](=[O:23])[O:39]1.CC1=CC=[C:10]([B:11]2[O:12]C(C)(C)C(C)(C)[O:62]2)O1>>CC1(C)C(C)(C)[O:62][B:11]=[O+:12]1.CC1=CC=[C:10]([CH:20]([C:21]2=[C:22]([O-:23])[O:39]C(C)(C)[O:33][C:31]2=[O:32])[C:41]2=[CH:42][C:43]3=[C:44]4N(CCC3)CCC[C:45]4=[CH:46]2)O1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CN1C(=O)C(CC2=CNC3=CC=CC=C23)/[N+:23](=[CH:22]/[CH:21]=[CH:20]/[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)C1(C)C.C[N:12]1[CH:11]=[N:10][C:61]2=[C:62]1C=CC=C2>>CN1C(=O)C(CC2=CNC3=CC=CC=C23)[N:23]([CH:22]=[CH:21][CH:20]([N:10]2[CH:11]=[N+:12](C)[C:62]3=[C:61]2C=CC=C3)[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)C1(C)C 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C1=CC=C(C[N+:23](CC2=CC=CC=C2)=[CH:22]/[CH:21]=[CH:20]/[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)C=C1.C[C:11]1=[CH:10][C:61]2=[C:62]([NH:12]1)[CH:63]=[CH:64][C:73](Cl)=[CH:72]2>>C[C:11]1=[NH+:12][C:62]2=[C:61]([CH:10]1[CH:20]([CH:21]=[CH:22][N:23](CC1=CC=CC=C1)CC1=CC=CC=C1)[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)[CH:72]=[C:73](Cl)[CH:64]=[CH:63]2 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
